US07365069B2
N-(3,4-Dimethylphenyl)pyridine-2-carboximidamide
The title compound was prepared from 2-cyanopyridine (8.6 g, 83 mmol) and 3,4-dimethylaniline (10 g, 83 mmol) by following the procedure described in preparation 10 (13.2 g, yield 71.2%, mp 105-107° C., purity 99.9% by HPLC). 1H-NMR (CDCl3): δ 2.24-2.25 (d, 6H), 5.75-6 (bs, 2H, D2O exchangeable), 6.75-6.81 (m, 2H), 7.11-7.13 (d, 1H), 7.36-7.39 (m, 1H), 7.78-7.82 (m, 1H) 8.39-8.41 (d, 1H), 8.55-8.57 (m, 1H). IR (KBr) cm−1: 3445, 3303, 1645, 1625. MS m/z:227 (M+).

reactant | 2-cyanopyridine | 83 mmol, 8.6 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | 3,4-dimethylaniline | 83 mmol, 10 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | KBr | [K+].[Br-]
product | N-(3,4-Dimethylphenyl)pyridine-2-carboximidamide | yield 71.2% | CC=1C=C(C=CC1C)NC(=N)C1=NC=CC=C1 | C14H15N3
